US06608203B2
1-Adamantan-1-yl-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared by analogy to Preparation 65 except that adamantane-1-carboxylic acid [2-(3-methoxy-phenyl)-ethyl]-phenyl-amide was used instead of 4-methoxy-N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-benzamide, and the final residue was subjected to flash chromatography using hexanes:EtOAc from 20:1 to 10:1.

reactant | adamantane-1-carboxylic acid [2-(3-methoxy-phenyl)-ethyl]-phenyl-amide | COC=1C=C(C=CC1)CCN(C(=O)C12CC3CC(CC(C1)C3)C2)C2=CC=CC=C2 | C26H31NO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Adamantan-1-yl-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline | C12(CC3CC(CC(C1)C3)C2)C2N(CCC3=CC(=CC=C23)OC)C2=CC=CC=C2 | C26H31NO
